* source INPUTNETWORKSIM
R_R2         0 N01498  {R2} TC=0,0 
R_R3         N01498 N00188  {R3} TC=0,0 
R_R4         N00188 OUT  10 TC=0,0 
C_C1         0 N00188  {C1}  TC=0,0 
R_R5         0 OUT  {R5} TC=0,0 
V_V1         N00306 0 DC 0Vdc AC 1Vac 
R_R6         N00306 IN  {R6} TC=0,0 
C_C2         IN N01498  10u  TC=0,0 
.PARAM  c1=1n r2=50k r3=400 r5=10k r6=20
